US07053089B2
(3-Chloro-pyrazin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine
EXAMPLE 89 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2,3-dichloropyrazine (refluxing 2-butanol): MS (m+1)=396.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2,3-dichloropyrazine | ClC1=NC=CN=C1Cl | C4H2Cl2N2
product | (3-Chloro-pyrazin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | ClC=1C(=NC=CN1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C18H23ClN4O2S
